* SPDT Switch
* Pin order:
* 1 = A1
* 2 = ACOM
* 3 = A2
*
* Subckt node order used below:
* A1 ACOM A1 A2
*
* Ron  = 1 Ohm
* Roff = 1e13 ohm

********************************************************************************
.SUBCKT UNPRESSED A1 ACOM A2
R_A1 ACOM A1  1
R_A2 ACOM A2  1e13
.ENDS UNPRESSED
********************************************************************************
.SUBCKT PRESSED A1 ACOM A2
R_A1 ACOM A1  1e13
R_A2 ACOM A2  1
.ENDS PRESSED
********************************************************************************
