* 2-pole, 4-position rotary switch
* Pin order:
* 1 = ACOM
* 2 = A1
* 3 = A2
* 4 = A3
* 5 = A4
* 10 = BCOM
* 6 = B1
* 7 = B2
* 8 = B3
* 9 = B4
*
* Subckt node order used below:
* ACOM A1 A2 A3 A4 BCOM B1 B2 B3 B4
*
* Ron  = 1 Ohm
* Roff = 1e13 ohm

********************************************************************************
.SUBCKT POS1 ACOM A1 A2 A3 A4 BCOM B1 B2 B3 B4
R_A1 ACOM A1  1
R_A2 ACOM A2  1e13
R_A3 ACOM A3  1e13
R_A4 ACOM A4  1e13

R_B1 BCOM B1  1
R_B2 BCOM B2  1e13
R_B3 BCOM B3  1e13
R_B4 BCOM B4  1e13
.ENDS POS1
********************************************************************************
.SUBCKT POS2 ACOM A1 A2 A3 A4 BCOM B1 B2 B3 B4
R_A1 ACOM A1  1e13
R_A2 ACOM A2  1
R_A3 ACOM A3  1e13
R_A4 ACOM A4  1e13

R_B1 BCOM B1  1e13
R_B2 BCOM B2  1
R_B3 BCOM B3  1e13
R_B4 BCOM B4  1e13
.ENDS POS2
********************************************************************************
.SUBCKT POS3 ACOM A1 A2 A3 A4 BCOM B1 B2 B3 B4
R_A1 ACOM A1  1e13
R_A2 ACOM A2  1e13
R_A3 ACOM A3  1
R_A4 ACOM A4  1e13

R_B1 BCOM B1  1e13
R_B2 BCOM B2  1e13
R_B3 BCOM B3  1
R_B4 BCOM B4  1e13
.ENDS POS3
********************************************************************************
.SUBCKT POS4 ACOM A1 A2 A3 A4 BCOM B1 B2 B3 B4
R_A1 ACOM A1  1e13
R_A2 ACOM A2  1e13
R_A3 ACOM A3  1e13
R_A4 ACOM A4  1

R_B1 BCOM B1  1e13
R_B2 BCOM B2  1e13
R_B3 BCOM B3  1e13
R_B4 BCOM B4  1
.ENDS POS4
********************************************************************************